US06235731B1
Synthesis of N-[2-(3-phenylpropan-1-ylamino)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a suspension of 1.09 g (ca 3.2 mM) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 1.15 g (10 mM) of N-hydroxysuccinimide in acetonitrile (15 ml) was added 1.92 g (10 mM) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride at room temperature, and the mixture was stirred for 2 hours. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4 and the solvent was distilled off under reduced pressure to provide a crude active ester (1.63 g). To a solution of this crude active ester (1.63 g) and 1.4 ml (10 mM) of triethylamine in acetonitrile (15 ml) was added 1.67 g (6.00 mM) of tert-butyl N-(2-aminoethan-1-yl)-3-phenylpropan-1-ylaminocarboxylate at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with methylene chloride. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4 and the solvent was distilled off under reduced pressure. The crude residue was subjected to column chromatography (methanol/ethyl acetate 10%), whereby a crude product (2.13 g, containing impurities) was obtained. To 413 mg (0.80 mM) of this crude product was added 1.5 ml (18 mM) of 12N-hydrochloric acid, and the mixture was stirred for several minutes. Then, ethanol and diethyl ether were added to the reaction mixture and the resulting crystals were collected by filtration and rinsed serially with ethanol, acetone, and diethyl ether to provide the title compound.

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | ca 3.2 mM, 1.09 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 10 mM, 1.15 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride | 10 mM, 1.92 g | Cl.C(C)N=C=NCCCN(C)C
reactant | tert-butyl N-(2-aminoethan-1-yl)-3-phenylpropan-1-ylaminocarboxylate | 6.00 mM, 1.67 g | NCCN(CCCC1=CC=CC=C1)C(=O)OC(C)(C)C | C16H26N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | triethylamine | 10 mM, 1.4 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(3-phenylpropan-1-ylamino)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCNCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C21H22N4OS.2ClH/c26-21(23-13-12-22-11-5-8-16-6-2-1-3-7-16)18-14-17-15-24-19-9-4-10-20(27-18)25(17)19;;/h1-4,6-7,9-10,14-15,22H,5,8,11-13H2,(H,23,26);2*1H
